US08034812B2
Production of 3-(1-cyanocyclopropyl)-N-(3-{[2-(glycoloylamino)imidazo[1,2-b]pyridazin-6-yl]oxy}phenyl)benzamide
Using 2-{[6-(3-{[3-(1-cyanocyclopropyl)benzoyl]amino}phenoxy)imidazo[1,2-b]pyridazin-2-yl]amino}-2-oxoethyl acetate (130 mg, 0.254 mmol), 1N aqueous sodium hydroxide solution (1.5 mL) and methanol (3 mL) as starting materials and in the same manner as in Example 396, the title compound (59 mg, 50%) was obtained as a pale-yellow powder.

reactant | 2-{[6-(3-{[3-(1-cyanocyclopropyl)benzoyl]amino}phenoxy)imidazo[1,2-b]pyridazin-2-yl]amino}-2-oxoethyl acetate | 0.254 mmol, 130 mg | C(C)(=O)OCC(=O)NC=1N=C2N(N=C(C=C2)OC2=CC(=CC=C2)NC(C2=CC(=CC=C2)C2(CC2)C#N)=O)C1 | C27H22N6O5
reactant | sodium hydroxide | 1N, 1.5 mL | [OH-].[Na+]
solvent | methanol | 3 mL | CO | CH4O
product | 3-(1-cyanocyclopropyl)-N-(3-{[2-(glycoloylamino)imidazo[1,2-b]pyridazin-6-yl]oxy}phenyl)benzamide | 59 mg, 50% | C(#N)C1(CC1)C=1C=C(C(=O)NC2=CC(=CC=C2)OC=2C=CC=3N(N2)C=C(N3)NC(CO)=O)C=CC1 | C25H20N6O4
